US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(3-hydroxy-3-methylbutyl)-2-thienyl]-1H-indole-7-carboxamide
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{3-methyl-3-[(triethylsilyl)oxy]butyl}-2-thienyl)-1H-indole-7-carboxamide (55 mg, 0.1 mmol) was dissolved in tetrahydrofuran (3 mL). Tetrabutylammonium fluoride (1 M in THF, 0.3 mL, 0.3 mmol) was added and the mixture was stirred at rt for 2 h. Additional TBAF (1 M in THF, 0.7 mL, 0.7 mmol) was added, and the mixture was stirred at 45° C. overnight. The reaction mixture was concentrated, re-diluted in dichloromethane (20 mL), and washed with water (20 mL). The organic layer was dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography, eluting with 0-15% methanol in dichloromethane. The residue was then repurified by Gilson HPLC (NH4OH buffer). The product fractions were combined and concentrated in an EZ2 Genevac evaporator, giving 17 mg (40%) of the title compound.

reactant | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{3-methyl-3-[(triethylsilyl)oxy]butyl}-2-thienyl)-1H-indole-7-carboxamide | 0.1 mmol, 55 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC(=CC1)CCC(C)(O[Si](CC)(CC)CC)C)C(=O)N)=O | C29H42N2O4S2Si
reactant | Tetrabutylammonium fluoride | 0.3 mmol, 1 M, 0.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | TBAF | 0.7 mmol, 1 M, 0.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(3-hydroxy-3-methylbutyl)-2-thienyl]-1H-indole-7-carboxamide | 17 mg, 40% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC(=CC1)CCC(C)(C)O)C(=O)N)=O | C23H28N2O4S2
